US06962935B2
Part A. Preparation of 2-(3-pyridyl)-4-(3-cyanophenyl)-5-carboethoxythiazole.
To a solution of ethyl 2-bromo-3-(3-cyanophenyl)-3-oxopropionate (1.0 g, 3.4 mmol) in 20 mL of tetrahydrofuran was added thionicotinamide (0.46 g, 3.4 mmol). The resulting mixture was stirred at 65° C. for 16 h. The reaction was allowed to cool and the solvent was evaporated in vacuo. The residue was triturated with chloroform, taken up in ethyl acetate, washed with saturated aq Na2CO3 and brine, dried (MgSO4) and concentrated in vacuo to yield a solid. Trituration with ethyl acetate left the title compound as an off-white solid (0.26 g, 23%). MS (ESI) 336.1 (M+H)+.

reactant | ethyl 2-bromo-3-(3-cyanophenyl)-3-oxopropionate | 3.4 mmol, 1.0 g | BrC(C(=O)OCC)C(=O)C1=CC(=CC=C1)C#N | C12H10BrNO3
reactant | thionicotinamide | 3.4 mmol, 0.46 g | C(C1=CN=CC=C1)(=S)N | C6H6N2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(3-pyridyl)-4-(3-cyanophenyl)-5-carboethoxythiazole | 0.26 g, 23% | N1=CC(=CC=C1)C=1SC(=C(N1)C1=CC(=CC=C1)C#N)C(=O)OCC | C18H13N3O2S
